US05510375
3-(4-Cyclohexylbutyl)-4-hydroxy-2H-1-benzopyran-2-one
The title compound was prepared from 4-cyclohexylbutyryl chloride and 4-hydroxycoumarin following the same procedure used in Example 13, m.p. 160°-161° C.; NMR (CDCl3) δ0.82 (m, 2H), 1.15 (m, 5H), 1.38 (m, 2H), 1.51-1.66 (m, 8H), 2.62 (t, 2H), 7.21 (bs, 1H), 7.26-7.34 (m, 2H), 7.53 (m, 1H), 7.87 (dd, 1H).

reactant | 4-cyclohexylbutyryl chloride | C1(CCCCC1)CCCC(=O)Cl | C10H17ClO
reactant | 4-hydroxycoumarin | OC1=CC(OC2=CC=CC=C12)=O | C9H6O3
product | 3-(4-Cyclohexylbutyl)-4-hydroxy-2H-1-benzopyran-2-one | C1(CCCCC1)CCCCC=1C(OC2=C(C1O)C=CC=C2)=O | C19H24O3
